US07456282B2
21.86 g (0.1 mole) of 2-chloro-4-(2-hydroxyethylamino)-5-nitropyrimidine was dissolved in 500 ml of ammonia saturated ethanol solution, and maintained between 50-60° C. A stream of ammonia was bubbled through the mixture for 13 hours. After completion of the reaction, the reaction product was maintained below 5° C., and the resulting crystal was filtered, washed and dried, thereby giving 18.81 g (93% yield) of light yellow-colored 2-amino-4-(2-hydroxyethylamino)-5-nitropyrimidine.

reactant | 2-chloro-4-(2-hydroxyethylamino)-5-nitropyrimidine | 0.1 mole, 21.86 g | ClC1=NC=C(C(=N1)NCCO)[N+](=O)[O-] | C6H7ClN4O3
reactant | ammonia | 500 ml | N | H3N
product | 2-amino-4-(2-hydroxyethylamino)-5-nitropyrimidine | 93% yield | NC1=NC=C(C(=N1)NCCO)[N+](=O)[O-] | C6H9N5O3
